US08802673B2
To a stirred solution of (RS)-2-[4-(5-ethoxy-pyrimidin-2-ylamino)-3-fluoro-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (12 mg) in acetonitrile (1.5 ml) and water (3 ml) was added trifluoroacetic acid (22.0 μl). The reaction mixture was then capped and the mixture was shaken at 80° C. for 3.5 h. The reaction mixture was then cooled to room temperature and poured into EtOAc and washed with 1 M aq. NaOH. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (Isolute® Flash-NH2 from Separtis; gradient: heptane/EtOAc/MeOH) to afford (RS)-(5-ethoxy-pyrimidin-2-yl)-(2-fluoro-4-morpholin-2-yl-phenyl)-amine (10 mg, quant.) as an off-white solid. MS (ISP): 319.2 ([ M+H]+).

reactant | (RS)-2-[4-(5-ethoxy-pyrimidin-2-ylamino)-3-fluoro-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 12 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC(=C(C=C1)NC1=NC=C(C=N1)OCC)F | C21H27FN4O4
reactant | trifluoroacetic acid | 22.0 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | (RS)-(5-ethoxy-pyrimidin-2-yl)-(2-fluoro-4-morpholin-2-yl-phenyl)-amine | 10 mg | C(C)OC=1C=NC(=NC1)NC1=C(C=C(C=C1)C1CNCCO1)F | C16H19FN4O2
